Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Intussusception 
 
Major Surgical or Invasive Procedure:
No surgical/invasive procedures

 
History of Present Illness:
___ lady with history of Roux-en-Y gastric bypass in
___ done in ___, open, presents with a 1 day history of
acute on chronic abdominal pain associated with diarrhea that 
was
nonbloody.  Patient states that she was in her usual state of
health until last night when she took a dose of gabapentin
prescribed by her chronic pain specialist for the first time and
developed "many side effects" although is unable to describe
specifics.  She woke up this morning with right-sided abdominal
pain radiating from her right upper quadrant down to her right
lower quadrant that was waxing and waning and new onset 
nonbloody
diarrhea.  This concerned her enough to call her hepatologist at
___, who recommended emergency room evaluation.  She presented 
to
___ where workup was notable for an
intussusception seen on CT abdomen pelvis.  Therefore she was
transferred to ___ for further evaluation.  Other
than her abdominal pain, she reports no other acute symptoms. 
She reports some mild nausea earlier today which has since
resolved.  She denies any vomiting, fevers, chills, chest pain,
or shortness of breath.  She reports having low level abdominal
pain for some time, and is frustrated with lack of resolution. 
Of note, she did present for similar symptoms in ___ to
___ where she was found to have a similar
appearing intussusception on scan without any acute abdominal
concerns.  She was offered surgery however she declined citing
fears of complications.  ___ surgery is consulted for
evaluation and management of intussusception seen on CT.

 
Past Medical History:
Chronic pain, NASH cirrhosis with abdominal
& esophageal varices, chronic splenomegaly, diabetes

 
Social History:
___
Family History:
___
 
Physical Exam:
Admission:
GEN: A&O, NAD, anxious
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: No resp distress
ABD: Soft, non-distended, well healed midline incision,
splenomegaly, tender to palpation in RLQ focally without any
peritoneal signs
Neuro: Grossly intact
Ext: No ___ edema, ___ warm and well perfused

Upon discharge:
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: No resp distress
ABD: Soft, non-distended, well healed midline incision,
splenomegaly, tender to palpation diffusely without any
peritoneal signs
Neuro: Alert and oriented
Ext: No ___ edema, ___ and ___ perfused
Fluid Balance reviewed in ___  
Labs: Reviewed in ___   

 
Pertinent Results:
Please see OMR for pertinent results
 
Brief Hospital Course:
The patient presented to the ED on ___ and was evaluated by 
the ___ Surgery service. She was determined to have a RLQ 
intussusception via CT scan and was admitted to the ___ 
service. She was managed nonoperatively and observed for 
resolution of symptoms. On hospital day 3 she underwent an upper 
GI series with SBFT, which was equivocal for intussusception. 
She then underwent a CT scan with oral and IV contrast, which 
demonstrated:

1. Previously seen jejunojejunal intussusception has resolved. 
2. 1.7 cm filling defect in the SMV and IMV confluence is 
suspicious for 
thrombus, increased compared to ___. 
3. 1.5 cm hypodensity along the wall of the esophageal variceal 
branch near 
its origin at the portal vein confluence may reflect partially 
occlusive 
thrombus, similar to ___. 
4. Thickened left colonic wall may be secondary to increased 
portal venous 
pressure. 
5. Liver cirrhosis, splenomegaly, and portosystemic varices.  
Small left 
pleural effusion. 

  
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with IV pain 
medication, transitioned to oral. Pain was very well controlled. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  
GI/GU/FEN: The patient was initially placed on a Bariatric 2 
diet, which she tolerated well. She was made NPO on Hospital Day 
3 for UGI with SBFT and CT with oral and IV contrast exams, but 
her diet was progressed afterwards. She was tolerating a regular 
diet upon discharge. 
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.  
HEME: The patient's blood counts were closely watched for signs 
of bleeding, infection, of which there were none. Electrolyte 
abnormalities were repleted. 
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible. She was noted to be 
thrombocytopenic and neutropenic, per her baseline given her 
cirrhosis and splenomegaly. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 3 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.  
 
Medications on Admission:
1) glipizide 5 mg daily
2) oxycodone 5mg (1.5 tablets ) PRN: Q6H  pain 
 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every ___ hours Disp 
#*30 Tablet Refills:*0 
2.  Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using REG Insulin 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Intussusception

 
Discharge Condition:
Alert and oriented x3, cohesive and coherent
Ambulatory per baseline

 
Discharge Instructions:
Ms. ___,

You were admitted to ___ for nonoperative management of an 
intussusception following Roux-En-Y gastric bypass. You have 
recovered well and are ready for discharge.

Please call your surgeon or return to the Emergency Department 
if you develop a fever greater than ___ F, shaking chills, chest 
pain, difficulty breathing, pain with breathing, cough, a rapid 
heartbeat, dizziness, severe abdominal pain, pain unrelieved by 
your pain medication, a change in the nature or severity of your 
pain, severe nausea, vomiting, abdominal bloating, severe 
diarrhea, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness, swelling from your 
incisions, or any other symptoms which are concerning to you.
  
Diet: Continue to eat your regular diet. To avoid dehydration, 
remember to sip small amounts of fluid frequently throughout the 
day to reach a goal of approximately ___ mL per day. Please 
note the following signs of dehydration: dry mouth, rapid 
heartbeat, feeling dizzy or faint, dark colored urine, 
infrequent urination.  
Medication Instructions:  

Please refer to the medication list provided with your discharge 
paperwork for detailed instruction regarding your home and newly 
prescribed medications.  

Some of the new medications you will be taking include:  
1. Pain medication: You will receive a prescription for 
oxycodone, an opioid pain medication. This medication will make 
you drowsy and impair your ability to drive a motor vehicle or 
operate machinery safely. You MUST refrain from such activities 
while taking these medications. You may also take acetaminophen 
(Tylenol) for pain management; do not exceed 4000 mg per 24 hour 
period.  

2. Constipation: This is a common side effect of opioid pain 
medication. If you experience constipation, please reduce or 
eliminate opioid pain medication. You may trial 2 ounces of 
light prune juice and/or a stool softener (i.e. crushed docusate 
sodium tablets), twice daily until you resume a normal bowel 
pattern. Please stop taking this medication if you develop loose 
stools. Please do not begin taking laxatives including until you 
have discussed it with your nurse or surgeon. 

You should continue walking frequently throughout the day right 
after surgery; you may climb stairs. You may resume moderate 
exercise at your discretion, but avoid performing abdominal 
exercises or lifting items greater than10 to 15 pounds for six 
weeks.  
 
Followup Instructions:
___